US07915304B2
Step A: potassium 3-cyano-3-(3-methylphenyl)-acrylate
To a stirred solution of (3-methylphenyl)-acetonitrile (21.6 ml, 165 mmol) in methanol (500 ml) were added glyoxylic acid hydrate (22.7 g, 247 mmol) and potassium carbonate (57.0 g, 412 mmol). The reaction mixture was stirred at room temperature for 2 hours followed by 3 hours at reflux. The precipitate was filtered off, washed with methanol (300 ml), dichloromethane (DCM) (300 ml) and then dried under air suction. The desired product was obtained as a white solid which was used in the next step without further purification.

reactant | (3-methylphenyl)-acetonitrile | 165 mmol, 21.6 ml | CC=1C=C(C=CC1)CC#N | C9H9N
reactant | glyoxylic acid hydrate | 247 mmol, 22.7 g | O.C(C=O)(=O)O
reactant | potassium carbonate | 412 mmol, 57.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 500 ml | CO | CH4O
product | potassium 3-cyano-3-(3-methylphenyl)-acrylate | C(#N)C(=CC(=O)[O-])C1=CC(=CC=C1)C.[K+] | InChI=1S/C11H9NO2.K/c1-8-3-2-4-9(5-8)10(7-12)6-11(13)14;/h2-6H,1H3,(H,13,14);/q;+1/p-1
